US04118494
(a) N-(2-Ethyl-2-phenyl-4-diethylaminobutyl)-carbamic acid ethyl ester
From 2-ethyl-2-phenyl-4-diethylamino-butylamine in analogy to 3a. The urethane was further reacted in a pure state.

reactant | 2-ethyl-2-phenyl-4-diethylamino-butylamine | C(C)C(CN)(CCN(CC)CC)C1=CC=CC=C1 | C16H28N2
reactant | urethane | NC(=O)OCC | C3H7NO2
product | N-(2-Ethyl-2-phenyl-4-diethylaminobutyl)-carbamic acid ethyl ester | C(C)OC(NCC(CCN(CC)CC)(C1=CC=CC=C1)CC)=O | C19H32N2O2
